US04474793
4-Allylthio-3-ethylazetidinone
To a solution of 1.06 g of sodium hydroxide in 14 ml of water were added 2.82 ml of allylthiol. The solution was stirred under an argon atmosphere for 10 minutes. To this solution was added, over a period of 1 minute, a solution of 3.79 g of ethyl acetoxyazetidinone in 6 ml of water. After about 15 minutes, when the starting material had been consumed, the solution was extracted three times with dichloromethane. The combined organic extracts were back-extracted with water, then dried over magnesium sulphate, evaporated in vacuo, and chromatographed over silica gel, eluting with ethyl acetate/hexane mixtures. The main product (2.84 g) was trans 4-allylthio-3-ethylazetidinone, which contained a trace amount of the cis isomer. (Yield 2.84 g)

reactant | sodium hydroxide | 1.06 g | [OH-].[Na+]
reactant | allylthiol | 2.82 ml | C=CCS | C3H6S
reactant | ethyl acetoxyazetidinone | 3.79 g | C(C)C1C(N(C1)OC(C)=O)=O | C7H11NO3
solvent | water | 14 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | 4-Allylthio-3-ethylazetidinone | C(C=C)SC1C(C(N1)=O)CC | C8H13NOS
